US04336381
Preparation of 2,4-di-(trimethylsilyloxy)-5-fluoropyrimidine
A suspension of 5-fluorouracil (32.5 g; 0.25 mole) in hexamethyldisilazane (d=0.765; 79 ml; 1.5 equivalents) is refluxed under heating at 150° C. with stirring for 3 hours and distilled in vacuo to give the title compound (63.8 g; yield 93%). bp. 83°-84° C./3 mmHg.

reactant | 5-fluorouracil | 0.25 mole, 32.5 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | hexamethyldisilazane | 79 ml, 1.5 equivalents | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 2,4-di-(trimethylsilyloxy)-5-fluoropyrimidine | 63.8 g, yield 93% | C[Si](OC1=NC=C(C(=N1)O[Si](C)(C)C)F)(C)C | C10H19FN2O2Si2
